US04183856
Using 2-amino-4,5-dimethylthiazole (1.28 g), N,N-dimethylcarbamoyl chloride (1.29 g), aluminum chloride (1.60 g), and xylene (40 ml), the reaction is run as in Example 1, whereby 1,1-dimethyl-3-(4,5-dimethyl-2-thiazolyl)urea (1.82 g) is obtained. Yield is 91.5%. Melting point is 202.5° to 204° C. (after recrystallization from ethyl acetate).

reactant | 2-amino-4,5-dimethylthiazole | 1.28 g | NC=1SC(=C(N1)C)C | C5H8N2S
reactant | N,N-dimethylcarbamoyl chloride | 1.29 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | aluminum chloride | 1.60 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,1-dimethyl-3-(4,5-dimethyl-2-thiazolyl)urea | 1.82 g, Yield is 91.5% | CN(C(=O)NC=1SC(=C(N1)C)C)C | C8H13N3OS
